US05037842
Methyl 2-isopropyl-5-benzoxazole carboxylate
A solution of methyl 3-amino-4-hydroxybenzoate (5.00 g, 29.9 mmol), isobutyryl chloride (3.51 g, 32.9 mmol), triethylamine (3.33 g, 32.9 mmol), pyridinium p-toluenesulfonate (2.5 g, 10 mmol) and xylene (100 mL) was heated to reflux overnight and then cooled to room temperature. The reaction was diluted with ethyl acetate (100 mL) and washed with water (2×50 mL), dried with magnesium sulfate, filtered and concentrated to give the title compound (6.82 g, quantitative yield) as a brown oil. Also prepared by this method were:

reactant | methyl 3-amino-4-hydroxybenzoate | 29.9 mmol, 5.00 g | NC=1C=C(C(=O)OC)C=CC1O | C8H9NO3
reactant | isobutyryl chloride | 32.9 mmol, 3.51 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | triethylamine | 32.9 mmol, 3.33 g | C(C)N(CC)CC | C6H15N
reactant | pyridinium p-toluenesulfonate | 10 mmol, 2.5 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 2-isopropyl-5-benzoxazole carboxylate | 6.82 g, quantitative yield | C(C)(C)C=1OC2=C(N1)C=C(C=C2)C(=O)OC | C12H13NO3
